US06124121
A mutant strain which was resistant to 5 g/L of L-valine was selected from E. coli K-12 and obtained the strain No. 101 (Valr), which did not produce L-leucine. From the strain No. 101, a mutant strain which was resistant to 1.3 g/L of azaleucine. The obtained strain, No. 51 (Varr, ALr), produced about 0.05-0.1 g/L of L-leucine. Then, a strain having a resistance to 2 g/L of 3-hydroxy-D,L-leucine (hereinafter referred to as hydroxyleucine) was selected from the strain No. 51 and obtained the strain No.4 (Varr, ALr, Hleur). The symbol, "Hleur " represents the strain which was conferred hydroxyleucine resistance. The strain No. 4 produced more leucine (about 0.4-0.6 g/L).

reactant | 3-hydroxy-D,L-leucine | OC(C(N)C(=O)O)C(C)C | C6H13NO3
reactant | hydroxyleucine | ON[C@@H](CC(C)C)C(=O)O | C6H13NO3
product | leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
